US04332810
Step A. 2-Methoxy-11-oximino-5,6,7,8,9,10-hexahydro-6,9-methanobenzocyclooctene
2-Methoxy-11-oxo-5,6,7,8,9,10-hexahydro-6,9-methanobenzocyclooctene (20.0 g; 0.1 mole) is reacted with hydroxylamine hydrochloride (20.0 g; 0.29 mole) in ethanol (100 ml) and pyridine (100 ml) to yield 20.1 g of the title compound.

reactant | 2-Methoxy-11-oxo-5,6,7,8,9,10-hexahydro-6,9-methanobenzocyclooctene | 0.1 mole, 20.0 g | COC=1C=CC2=C(CC3CCC(C2)C3=O)C1 | C14H16O2
reactant | hydroxylamine hydrochloride | 0.29 mole, 20.0 g | Cl.NO
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 2-Methoxy-11-oximino-5,6,7,8,9,10-hexahydro-6,9-methanobenzocyclooctene | 20.1 g | COC=1C=CC2=C(CC3CCC(C2)C3=NO)C1 | C14H17NO2
